US06686381B2
1-(2-Methoxy-phenyl)-3-{3-[5-(2-methyl-benzoyl)-thiazol-2-ylamino]-propyl}-urea
A mixture of 12.5 mg (0.04 mmol) [2-(3-Amino-propylamino)-thiazol-5-yl]-o-tolyl-methanone hydrochloride, 7.6 mg (0.05 mmol) 2-Methoxyphenyl isocyanate and 39 ul NEt3 in 1 ml methanol was stirred for 16 h at room temperature. After evaporation to dryness the residue was taken up in 1.5 ml MeOH/formic acid 1/1 and subjected to preparative HPLC separation on reversed phase eluting with an acetonitrile/water gradient. Evaporation of product fractions yielded 7.9 mg (47%) of the title compound.

reactant | [2-(3-Amino-propylamino)-thiazol-5-yl]-o-tolyl-methanone hydrochloride | 0.04 mmol, 12.5 mg | Cl.NCCCNC=1SC(=CN1)C(=O)C1=C(C=CC=C1)C
reactant | 2-Methoxyphenyl isocyanate | 0.05 mmol, 7.6 mg | COC1=C(C=CC=C1)N=C=O | C8H7NO2
reactant | NEt3 | 39 ul | CCN(CC)CC | C6H15N
solvent | methanol | 1 ml | CO | CH4O
product | 1-(2-Methoxy-phenyl)-3-{3-[5-(2-methyl-benzoyl)-thiazol-2-ylamino]-propyl}-urea | 7.9 mg, 47% | COC1=C(C=CC=C1)NC(=O)NCCCNC=1SC(=CN1)C(C1=C(C=CC=C1)C)=O | C22H24N4O3S
